### PR TITLE
chore: merge nightly-testing into bump/v4.17.0

### PR DESCRIPTION
**Pull request by jcommelin**

### CODE REVIEW

File: Batteries/Data/Array/Lemmas.lean [hunk 1]
```diff
@@ -32,155 +32,31 @@ theorem forIn_eq_forIn_toList [Monad m]
...
+theorem eraseP_toArray {as : List α} {p : α → Bool} :
     as.toArray.eraseP p = (as.eraseP p).toArray := by
   rw [Array.eraseP, List.eraseP_eq_eraseIdx, findFinIdx?_toArray]
   split
   · simp only [List.findIdx?_eq_map_findFinIdx?_val, Option.map_none', *]
   · simp only [eraseIdx_toArray, List.findIdx?_eq_map_findFinIdx?_val, Option.map_some', *]
 
--- Adaptation note: We can remove the `LawfulBEq α` assumption again on nightly-2025-01-31.
-@[simp] theorem erase_toArray [BEq α] [LawfulBEq α] {as : List α} {a : α} :
+theorem erase_toArray [BEq α] {as : List α} {a : α} :
```
Comment (jcommelin) [inline Batteries/Data/Array/Lemmas.lean:53]:
```suggestion
@[simp] theorem erase_toArray [BEq α] {as : List α} {a : α} :
```

File: Batteries/Data/Array/Lemmas.lean [hunk 2]
```diff
@@ -32,155 +32,31 @@ theorem forIn_eq_forIn_toList [Monad m]
...
-
 theorem idxOf?_toList [BEq α] {a : α} {l : Array α} :
     l.toList.idxOf? a = l.idxOf? a := by
   rcases l with ⟨l⟩
   simp
 
 /-! ### erase -/
 
-@[simp] theorem eraseP_toArray {as : List α} {p : α → Bool} :
+theorem eraseP_toArray {as : List α} {p : α → Bool} :
```
Comment (jcommelin) [inline Batteries/Data/Array/Lemmas.lean:46]:
```suggestion
@[simp] theorem eraseP_toArray {as : List α} {p : α → Bool} :
```
